US04431812
3,3-Dimethylbutyl-2,4-dichlorobenzyl-pyridin-3-yl-carbinol
A solution of 66.2 g of 2,4-dichlorobenzyl chloride in 150 ml of ether was added dropwise to 8.2 g of Mg in 100 ml of diethyl ether. After 20% of the amount of dichlorobenzyl chloride had been added, the reaction was started by adding a few drops of bromine. After completion of the dropwise addition of the 2,4-dichlorobenzyl chloride solution, the mixture was refluxed for 1/2 an hour. It was then added dropwise to a solution of 55 g of 3,3-dimethylbutyl pyridin-3-yl ketone in 100 ml of ether. After it had been refluxed for a further two hours, the reaction mixture was hydrolyzed by dropwise addition of saturated aqueous NH4Cl solution (until the pH was 8), while being cooled with ice. The mixture was stirred for 15 hours at room temperature (20° C.) and extracted with diethyl ether, and the ether phase was washed with water, dried over Na2SO4, concentrated and distilled. 52 g of 3,3-dimethylbutyl-2,4-dichlorobenzyl-pyridin-3 -yl-carbinol (active ingredient No. 36) were obtained; boiling point 196°-202° C./0.5 mbar.

reactant | 2,4-dichlorobenzyl chloride | 66.2 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
reactant | dichlorobenzyl chloride | ClC(C1=CC=CC=C1)(Cl)Cl | C7H5Cl3
reactant | 3,3-dimethylbutyl pyridin-3-yl ketone | 55 g | N1=CC(=CC=C1)C(=O)CCC(C)(C)C | C12H17NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
catalyst | bromine | a few drops | BrBr | Br2
solvent | ether | 100 ml | CCOCC | C4H10O
product | 3,3-Dimethylbutyl-2,4-dichlorobenzyl-pyridin-3-yl-carbinol | CC(CCC(O)(C=1C=NC=CC1)CC1=C(C=C(C=C1)Cl)Cl)(C)C | C19H23Cl2NO
